US04367238
A mixture of ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]-n-hexanoate (6.5 g), hydriodic acid (58%, 10 ml) and glacial acetic acid (20 ml) was refluxed under heating for 47 hours. After cooling, the reaction mixture was poured into dil. aqueous sodium hydrogen sulfite and extracted with diethyl ether. The extract was washed with water, dil. aqueous sodium hydrogen sulfite and water in turn, dried and evaporated under reduced pressure. To the oily residue was added acetic anhydride (10 ml), and the mixture was refluxed under heating for 10 minutes and evaporated under reduced pressure. Water and ethanol were added to the residue, and the mixture was concentrated under reduced pressure. The oily residue was purified by column chromatography (silica gel 80 g, benzene) to give 3-(n-butyl) 7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one (2.8 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]-n-hexanoate | 6.5 g | C(#N)C(C(=O)OCC)(CCCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C23H27NO4
reactant | hydriodic acid | 10 ml | I | HI
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-(n-butyl) 7-(o-tolyloxy)-2,3-dihydrobenzofuran-2-one | 2.8 g | C(CCC)C1C(OC2=C1C=CC=C2OC2=C(C=CC=C2)C)=O | C19H20O3
